US20010027193A1
N-[3-(Methylsulfonylmethyl)phenyl]N-methylamine may be obtained by carrying out the procedure in the following manner: a mixture of 9.65 cm3 of formic acid and 19.63 cm3 of acetic anhydride is heated at 50° C. for 3 hours under argon, and then the solution obtained is allowed to return to room temperature. 40 cm3 of tetrahydrofuran are poured in and the medium is cooled to −20° C. After stirring for 2 hours at −20° C., a solution of 14.8 g of 3-(methylsulfonylmethyl)phenylamine is poured in while the temperature is maintained. After stirring for 2 hours at −20° C., and then for 48 hours at 20° C., the mixture is filtered, the solid is drained and then washed with three times 50 cm3 of diisopropyl ether and dried under reduced pressure (2.7 kPa). A solid A is obtained. The filtrate is concentrated to half the volume, the resulting suspension is filtered, the solid is drained, washed with diisopropyl ether and dried. A solid B is obtained. The two solids A and B are combined and taken up in 375 cm3 of tetrahydrofuran and the mixture, cooled to 0° C., is supplemented, over 20 minutes, with 80 cm3 of a 2 M solution of borane-dimethyl sulfide complex in tetrahydrofuran and then heated at reflux temperature for 3 hours. The reaction mixture, cooled to +5° C., is supplemented over 20 minutes with 60 cm3 of methanol, stirred for 1 hour at room temperature and then supplemented with gaseous hydrochloric acid to a pH of 1. The mixture is heated under reflux for one hour and then supplemented with 300 cm3 of water and with a 3 N solution of sodium hydroxide to pH 8. The resulting mixture is extracted with 500 cm3 of ethyl acetate, the organic phase is washed successively with a saturated aqueous sodium hydrogen carbonate solution, and with brine, and is then dried over magnesium sulfate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up in 100 cm3 of 4 N sulfuric acid, the solution obtained is washed with 100 cm3 of ethyl acetate, then alkalinized to pH 8 with 3 N sodium hydroxide and with a saturated aqueous sodium carbonate solution and is then extracted with twice 75 cm3 of ethyl acetate. The combined extracts are dried over magnesium sulfate and concentrated to dryness under reduced pressure (2.7 kPa). 8.98 g of N-[3-(methylsulfonylmethyl)phenyl]N-methylamine are obtained in the form of a pink solid.

reactant | acetic anhydride | 19.63 cm3 | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(methylsulfonylmethyl)phenylamine | 14.8 g | CS(=O)(=O)CC=1C=C(C=CC1)N | C8H11NO2S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 375 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 cm3 | O1CCCC1 | C4H8O
solvent | water | 300 cm3 | O | H2O
solvent | methanol | 60 cm3 | CO | CH4O
solvent | formic acid | 9.65 cm3 | C(=O)O | CH2O2
product | N-[3-(methylsulfonylmethyl)phenyl]N-methylamine | 8.98 g | CS(=O)(=O)CC=1C=C(C=CC1)NC | C9H13NO2S
